US07226918B2
(iii) 2-Methyl-4-(toluene-4-sulfonyl)-morpholine
Sodium hydroxide (0.91 g, 0.02 mol) suspended in methanol (15 ml) was added to a stirred solution of Toluene-4-sulfonic acid 2-[(2-hydroxy-propyl)-(toluene-4-sulfonyl)-amino]-ethyl ester (9.69 g, 0.02 mol) in DCM (15 ml). After 1 h, water (50 ml) was added to the solution. The organic layer was collected, dried over sodium sulphate and evaporated in vaccuo to yield a green oily residue. This was purified by chromatographic separation (20% Ethyl acetate:petrol) to yield the title compound as a white solid. (1.70 g, 6.66 mmol, 33%).

reactant | Sodium hydroxide | 0.02 mol, 0.91 g | [OH-].[Na+]
reactant | Toluene-4-sulfonic acid 2-[(2-hydroxy-propyl)-(toluene-4-sulfonyl)-amino]-ethyl ester | 0.02 mol, 9.69 g | OC(CN(CCOS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)C | C19H25NO6S2
reactant | water | 50 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-4-(toluene-4-sulfonyl)-morpholine | CC1CN(CCO1)S(=O)(=O)C1=CC=C(C=C1)C | C12H17NO3S
